US08017646B2
Following the procedure described in example 1§B, but starting from 3-(4-methylphenyl)propan-1-ol (6.02 g), triethylamine (2.9 mL), methanesulfonyl chloride (3.67 mL) and dichloromethane (39 mL), affords 3-(4-methylphenyl)propan-1-ol mesylate (3.4 g) used without further purification.

reactant | 3-(4-methylphenyl)propan-1-ol | 6.02 g | CC1=CC=C(C=C1)CCCO | C10H14O
reactant | triethylamine | 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.67 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 39 mL | ClCCl | CH2Cl2
product | 3-(4-methylphenyl)propan-1-ol mesylate | 3.4 g | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)C | C11H16O3S
